2178-07-31 06:31:00 Physician Resident Progress Note
Chief Complaint: UGIB
   24 Hour Events:
   s/p 6 U PRBC
   Bleeding has stopped temporarily. Extensive tumor encasing hepatic
   artery seen on angiography, embolization not a feasible therapeutic
   strategy.  No endoscopic or surgical treatment options for bleeding.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   History obtained from [**Hospital 15**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2178-7-30**] 06:15 AM
   Fentanyl - [**2178-7-30**] 06:15 AM
   Naloxone (Narcan) - [**2178-7-30**] 06:45 AM
   Pantoprazole (Protonix) - [**2178-7-30**] 08:15 AM
   Other medications:
   Changes to medical and family history: n/a
   Review of systems is unchanged from admission except as noted below
   Review of systems: no abd pain, N/V, hematemesis, hematochezia
   Flowsheet Data as of  [**2178-7-31**] 06:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.2
C (99
   HR: 58 (57 - 75) bpm
   BP: 100/81(86) {97/43(57) - 128/81(86)} mmHg
   RR: 18 (6 - 23) insp/min
   SpO2: 93%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 79 Inch
             Total In:
                                                                  7,518 mL
                                                                    107 mL
   PO:
             TF:
   IVF:
                                                                    314 mL
                                                                    107 mL
   Blood products:
                                                                  1,304 mL
   Total out:
                                                                  1,680 mL
                                                                    460 mL
   Urine:
                                                                  1,680 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,838 mL
                                                                   -354 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL, OP clear
   Head, Ears, Nose, Throat: NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bibasilar ), LUL end-exp squeak
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): person, place, time, Movement: Not assessed,
   Tone: Not assessed
   Labs / Radiology
   62 K/uL
   15.2 g/dL
   157 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.3 mEq/L
   13 mg/dL
   107 mEq/L
   140 mEq/L
   40.3 %
   6.3 K/uL
        [image002.jpg]
                             [**2178-7-30**]  03:25 AM
                             [**2178-7-30**]  07:26 AM
                             [**2178-7-30**]  12:16 PM
                             [**2178-7-30**]  07:03 PM
                             [**2178-7-30**]  11:33 PM
                             [**2178-7-31**]  05:00 AM
   WBC
   6.3
   Hct
   27.3
   40.5
   42.8
   41.8
   40.3
   Plt
   62
   Cr
   0.7
   0.6
   Glucose
   192
   157
   Other labs: PT / PTT / INR:15.0/33.2/1.3, Ca++:7.5 mg/dL, Mg++:1.7
   mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   77 y/o M with locally advanced, unresectable pancreatic cancer s/p
   cyberknife and current rx with gemcitabine p/w with brisk UGIB from
   tumor invasion into duodenal bulb, s/p transfusion of 6U PRBC
   .
   # UGIB
 EGD notable for direct tumor invasion and ulceration of
   duodenal bulb; bleeding has resolved for now, HD stable
   - recheck PM Hct, monitor for s/sx bleeding
   - adequate acess (16 g and 2 18 g)
   - convert PPI gtt to IV PPI
   .
   #thrombocytopenia - plt count stable, no clinical s/sx of bleeding at
   this time; most likely dilution effect from transfusion; low clinical
   suspicion for a systemic cause such as sepsis or DIC, or drug related
   as has not received offending meds (i.e. ABX, heparin) since admission
   when plt counts were normal
   -cont. trend platelet counts, no need for platelet x-fusion at this
   time
   .
   # partial gastric outlet obstruction [**2-28**] disease extension - pt
   asymptomatic at present, appetite returning
   - d/c NGT
   -antiemetics PRN
   .
   # s/p fall [**7-29**]
 no s/sx ICH; head CT limited [**2-28**] contrast given for
   abd/pelvic CT; C-spine CT negative for fracture/dislocation
   -cont. to monitor mental status, neuro exam
   -low threshold for repeat CT given thrombocytopenia
   .
   # DM - gluc 150-200; expect worsening glycemic control in the setting
   of pancreatic CA
   -RISS while NPO
   -may add basal doses if hyperglycemia persists
   .
   # HTN: hold ACE for now
   .
   # Pancreatic CA: source of bleeding, but not a surgical candidate;
   LFT's WNL; further chemotherapy likely to magnify bleeding risk; will
   attempt to coordinate discussion with patient and onc coverage
   .
   #F/E/N
   - advance to full liquid diet
   -repleted K, phos
   -euvolemic, IVF @ KVO
   .
   # Proph: pneumoboots, PPI
   .
   # Code status: Patient aware of his prognosis after discussion with
   team; CPR not medically indicated; formal discussion re: code status
   and goals of care pending arrival of patient
s wife
   .
   # Comm: Wife [**Name (NI) 455**] (HCP) [**Telephone/Fax (1) 862**].  consent in chart
   .
   # Dispo: ICU pending stabilization
   .
   # Access: 18x2 and 16
   ICU Care
   Nutrition: full liquid diet, ADAT
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2178-7-30**] 03:18 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: CPR not indicated
   Disposition:ICU

2178-08-01 06:29:00 Physician Resident Progress Note
Chief Complaint: UGIB
   24 Hour Events:
   Family meeting: patient currently DNI/[**Name (NI) 886**]
   Pt started to rebleed:  BRBPR, and spitting up blood, drop in blood
   pressure
   Pt responded to  2 units pRBC
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-1**] 06:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98.1
   HR: 73 (57 - 94) bpm
   BP: 131/55(75) {79/46(50) - 131/88(133)} mmHg
   RR: 20 (0 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
           Total In:
                                                                  3,515 mL
                                                                    345 mL
   PO:
           TF:
   IVF:
                                                                  3,046 mL
                                                                     64 mL
   Blood products:
                                                                    469 mL
                                                                    281 mL
   Total out:
                                                                  1,995 mL
                                                                    740 mL
   Urine:
                                                                  1,295 mL
                                                                    440 mL
   NG:
                                                                    200 mL
   Stool:
                                                                    500 mL
                                                                    300 mL
   Drains:
   Balance:
                                                                  1,520 mL
                                                                   -395 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   127 K/uL
   11.9 g/dL
   197 mg/dL
   0.6 mg/dL
   23 mEq/L
   3.9 mEq/L
   17 mg/dL
   111 mEq/L
   141 mEq/L
   34.2 %
   8.0 K/uL
        [image002.jpg]
                             [**2178-7-30**]  03:25 AM
                             [**2178-7-30**]  07:26 AM
                             [**2178-7-30**]  12:16 PM
                             [**2178-7-30**]  07:03 PM
                             [**2178-7-30**]  11:33 PM
                             [**2178-7-31**]  05:00 AM
                             [**2178-7-31**]  06:30 PM
                             [**2178-7-31**]  10:48 PM
                             [**2178-8-1**]  04:00 AM
   WBC
   6.3
   6.7
   8.0
   Hct
   27.3
   40.5
   42.8
   41.8
   40.3
   41.4
   34.1
   32.1
   34.2
   Plt
   62
   97
   127
   Cr
   0.7
   0.6
   0.6
   Glucose
   192
   157
   197
   Other labs: PT / PTT / INR:14.3/33.0/1.2, Ca++:7.0 mg/dL, Mg++:1.6
   mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 DIABETES MELLITUS (DM), TYPE II
 CANCER (MALIGNANT NEOPLASM), PANCREAS
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
   77 y/o M with locally advanced, unresectable pancreatic cancer s/p
   cyberknife and current rx with gemcitabine p/w with brisk UGIB from
   tumor invasion into duodenal bulb, s/p transfusion of 6U PRBC
   .
   # UGIB
 EGD notable for direct tumor invasion and ulceration of
   duodenal bulb; bleeding has resolved for now, HD stable
   - recheck PM Hct, monitor for s/sx bleeding
   - adequate acess (16 g and 2 18 g)
   - convert PPI gtt to IV PPI
   .
   #thrombocytopenia - plt count stable, no clinical s/sx of bleeding at
   this time; most likely dilution effect from transfusion; low clinical
   suspicion for a systemic cause such as sepsis or DIC, or drug related
   as has not received offending meds (i.e. ABX, heparin) since admission
   when plt counts were normal
   -cont. trend platelet counts, no need for platelet x-fusion at this
   time
   .
   # partial gastric outlet obstruction [**2-28**] disease extension - pt
   asymptomatic at present, appetite returning
   - d/c NGT
   -antiemetics PRN
   .
   # s/p fall [**7-29**]
 no s/sx ICH; head CT limited [**2-28**] contrast given for
   abd/pelvic CT; C-spine CT negative for fracture/dislocation
   -cont. to monitor mental status, neuro exam
   -low threshold for repeat CT given thrombocytopenia
   .
   # DM - gluc 150-200; expect worsening glycemic control in the setting
   of pancreatic CA
   -RISS while NPO
   -may add basal doses if hyperglycemia persists
   .
   # HTN: hold ACE for now
   .
   # Pancreatic CA: source of bleeding, but not a surgical candidate;
   LFT's WNL; further chemotherapy likely to magnify bleeding risk; will
   attempt to coordinate discussion with patient and onc coverage
   .
   #F/E/N
   - advance to full liquid diet
   -repleted K, phos
   -euvolemic, IVF @ KVO
   .
   # Proph: pneumoboots, PPI
   .
   # Code status: Patient aware of his prognosis after discussion with
   team; CPR not medically indicated; formal discussion re: code status
   and goals of care pending arrival of patient
s wife
   .
   # Comm: Wife [**Name (NI) 455**] (HCP) [**Telephone/Fax (1) 862**].  consent in chart
   .
   # Dispo: ICU pending stabilization
   .
   # Access: 18x2 and 16
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2178-7-31**] 09:46 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2178-08-01 10:57:00 Physician Attending Progress Note
Chief Complaint: GIB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Comfortable
   24 Hour Events:
   Substantial bleed overnight - stopped w/o intervention
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2178-8-1**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-1**] 10:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36
C (96.8
   HR: 72 (58 - 94) bpm
   BP: 119/106(109) {79/46(50) - 133/106(133)} mmHg
   RR: 16 (7 - 24) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
           Total In:
                                                                  3,515 mL
                                                                    389 mL
   PO:
           TF:
   IVF:
                                                                  3,046 mL
                                                                    108 mL
   Blood products:
                                                                    469 mL
                                                                    281 mL
   Total out:
                                                                  1,995 mL
                                                                    920 mL
   Urine:
                                                                  1,295 mL
                                                                    620 mL
   NG:
                                                                    200 mL
   Stool:
                                                                    500 mL
                                                                    300 mL
   Drains:
   Balance:
                                                                  1,520 mL
                                                                   -531 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion:
   Hyperresonant: ), (Breath Sounds: Diminished: ), Prolonged ehhalation
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.9 g/dL
   127 K/uL
   197 mg/dL
   0.6 mg/dL
   23 mEq/L
   3.9 mEq/L
   17 mg/dL
   111 mEq/L
   141 mEq/L
   33.8 %
   8.0 K/uL
        [image002.jpg]
                             [**2178-7-30**]  03:25 AM
                             [**2178-7-30**]  07:26 AM
                             [**2178-7-30**]  12:16 PM
                             [**2178-7-30**]  07:03 PM
                             [**2178-7-30**]  11:33 PM
                             [**2178-7-31**]  05:00 AM
                             [**2178-7-31**]  06:30 PM
                             [**2178-7-31**]  10:48 PM
                             [**2178-8-1**]  04:00 AM
                             [**2178-8-1**]  06:45 AM
   WBC
   6.3
   6.7
   8.0
   Hct
   27.3
   40.5
   42.8
   41.8
   40.3
   41.4
   34.1
   32.1
   34.2
   33.8
   Plt
   62
   97
   127
   Cr
   0.7
   0.6
   0.6
   Glucose
   192
   157
   197
   Other labs: PT / PTT / INR:15.6/32.1/1.4, Ca++:7.0 mg/dL, Mg++:1.6
   mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 DIABETES MELLITUS (DM), TYPE II
 CANCER (MALIGNANT NEOPLASM), PANCREAS
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
   Unstable ulcerated GI tumor - will continue to bleed and there is no
   realistic intervention. He understands his prognosis and is comfortable
   with comfort care. His desire is to go home and we are consulting
   palliative care. He understands that his condition is terminal. I do
   not believe XRT is either indicated or realistic treatment given the
   nature of his intraluminal tumor.
   ICU Care
   Nutrition:
   Comments: Eating
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2178-7-31**] 09:46 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :D/C Home with hospice when arranged
   Total time spent: 45 minutes
   Patient is critically ill

2178-08-02 06:48:00 Physician Resident Progress Note
Chief Complaint: UGIB
   24 Hour Events:
   He has been called out to the OMED floor.
   Waiting for palliative care consult.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2178-8-1**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-2**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.7
C (98
   HR: 58 (58 - 94) bpm
   BP: 124/54(72) {112/53(70) - 139/106(109)} mmHg
   RR: 16 (7 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 69 Inch
             Total In:
                                                                    571 mL
                                                                     68 mL
   PO:
             TF:
   IVF:
                                                                    290 mL
                                                                     68 mL
   Blood products:
                                                                    281 mL
   Total out:
                                                                  1,555 mL
                                                                    360 mL
   Urine:
                                                                  1,255 mL
                                                                    360 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                   -984 mL
                                                                   -293 mL
   Respiratory support
   SpO2: 95%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   127 K/uL
   11.9 g/dL
   197 mg/dL
   0.6 mg/dL
   23 mEq/L
   3.9 mEq/L
   17 mg/dL
   111 mEq/L
   141 mEq/L
   33.8 %
   8.0 K/uL
        [image002.jpg]
                             [**2178-7-30**]  03:25 AM
                             [**2178-7-30**]  07:26 AM
                             [**2178-7-30**]  12:16 PM
                             [**2178-7-30**]  07:03 PM
                             [**2178-7-30**]  11:33 PM
                             [**2178-7-31**]  05:00 AM
                             [**2178-7-31**]  06:30 PM
                             [**2178-7-31**]  10:48 PM
                             [**2178-8-1**]  04:00 AM
                             [**2178-8-1**]  06:45 AM
   WBC
   6.3
   6.7
   8.0
   Hct
   27.3
   40.5
   42.8
   41.8
   40.3
   41.4
   34.1
   32.1
   34.2
   33.8
   Plt
   62
   97
   127
   Cr
   0.7
   0.6
   0.6
   Glucose
   192
   157
   197
   Other labs: PT / PTT / INR:15.6/32.1/1.4, Ca++:7.0 mg/dL, Mg++:1.6
   mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   77 y/o M with locally advanced, unresectable pancreatic cancer s/p
   cyberknife and current rx with gemcitabine p/w with brisk UGIB from
   tumor invasion into duodenal bulb, s/p transfusion of 8U PRBC
   .
   # UGIB
 EGD notable for direct tumor invasion and ulceration of
   duodenal bulb; bleeding has resolved for now, HD stable
   - recheck AM Hct, monitor for s/sx bleeding
   - transfuse only if symptomatic
   - adequate acess ( [**3-16**] g)
   - continue po PPI
   .
   # Consult Pain and Palliative Care to arrange hospice care and discuss
   end of life care with pt and family.
   .
   #thrombocytopenia - plt count increasing, no clinical s/sx of bleeding
   at this time; most likely dilution effect from transfusion; low
   clinical suspicion for a systemic cause such as sepsis or DIC, or drug
   related as has not received offending meds (i.e. ABX, heparin) since
   admission when plt counts were normal
   -cont. trend platelet counts, no need for platelet x-fusion at this
   time
   .
   # partial gastric outlet obstruction [**2-28**] disease extension - pt
   asymptomatic at present, appetite returning
   - d/c NGT
   -antiemetics PRN
   - regular diet
   .
   # s/p fall [**7-29**]
 no s/sx ICH; head CT limited [**2-28**] contrast given for
   abd/pelvic CT; C-spine CT negative for fracture/dislocation
   -cont. to monitor mental status, neuro exam
   .
   # DM - gluc 150-200; expect worsening glycemic control in the setting
   of pancreatic CA
   -SSI
   .
   # HTN: hold ACE for now
   .
   # Pancreatic CA: source of bleeding, but not a surgical candidate;
   LFT's WNL; further chemotherapy likely to magnify bleeding risk; will
   attempt to coordinate discussion with patient and onc coverage.  At the
   request of Heme/Onc, RadOnc was consulted. Decision was that made that
   pt would not benefit from continuation of chemo or radiation.
   .
   #F/E/N
   - advance to regular diet
   -repleted Mg
   -euvolemic, IVF @ KVO
   .
   # Proph: pneumoboots, PPI
   .
   # Code status: DNR/DNI.
   # Comm: Wife [**Name (NI) 455**] (HCP) [**Telephone/Fax (1) 862**].  consent in chart
   # Dispo: home after consult with palliative care
   .
   # Access: 18x2
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2178-7-31**] 09:46 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2178-08-02 11:08:00 Physician Attending Progress Note
Chief Complaint: GIB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   No pain, no further bleeding
   24 Hour Events:
 CALLED OUT
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2178-8-2**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2178-8-2**] 11:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.3
C (97.4
   HR: 67 (58 - 94) bpm
   BP: 123/58(74) {112/50(68) - 139/85(92)} mmHg
   RR: 13 (11 - 24) insp/min
   SpO2: 87%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                    571 mL
                                                                    350 mL
   PO:
             240 mL
   TF:
   IVF:
                                                                    290 mL
                                                                    110 mL
   Blood products:
                                                                    281 mL
   Total out:
                                                                  1,555 mL
                                                                    515 mL
   Urine:
                                                                  1,255 mL
                                                                    515 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                   -984 mL
                                                                   -165 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 87%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   Prolonged exhalation
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, Tone: Normal
   Labs / Radiology
   11.9 g/dL
   127 K/uL
   197 mg/dL
   0.6 mg/dL
   23 mEq/L
   3.9 mEq/L
   17 mg/dL
   111 mEq/L
   141 mEq/L
   33.8 %
   8.0 K/uL
        [image002.jpg]
                             [**2178-7-30**]  03:25 AM
                             [**2178-7-30**]  07:26 AM
                             [**2178-7-30**]  12:16 PM
                             [**2178-7-30**]  07:03 PM
                             [**2178-7-30**]  11:33 PM
                             [**2178-7-31**]  05:00 AM
                             [**2178-7-31**]  06:30 PM
                             [**2178-7-31**]  10:48 PM
                             [**2178-8-1**]  04:00 AM
                             [**2178-8-1**]  06:45 AM
   WBC
   6.3
   6.7
   8.0
   Hct
   27.3
   40.5
   42.8
   41.8
   40.3
   41.4
   34.1
   32.1
   34.2
   33.8
   Plt
   62
   97
   127
   Cr
   0.7
   0.6
   0.6
   Glucose
   192
   157
   197
   Other labs: PT / PTT / INR:15.6/32.1/1.4, Ca++:7.0 mg/dL, Mg++:1.6
   mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 DIABETES MELLITUS (DM), TYPE II
 CANCER (MALIGNANT NEOPLASM), PANCREAS
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
   Bleeding is stable.  He is comfortable w/o complaints. He is anxious to
   get home and we will have palliative care see him first thing in am.
   He is terminal and wants to go home which is highly reasonable.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2178-7-31**] 09:46 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2178-08-03 07:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CALLED OUT
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   History obtained from [**Hospital 15**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2178-8-2**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-3**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 63 (60 - 81) bpm
   BP: 125/58(75) {110/40(57) - 140/86(94)} mmHg
   RR: 19 (12 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                    480 mL
                                                                     71 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                    240 mL
                                                                     71 mL
   Blood products:
   Total out:
                                                                  1,095 mL
                                                                    440 mL
   Urine:
                                                                  1,095 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -615 mL
                                                                   -369 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ////
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to):
   person, place, time, Movement: Not assessed, Tone: Normal
   Labs / Radiology
   127 K/uL
   11.9 g/dL
   197 mg/dL
   0.6 mg/dL
   23 mEq/L
   3.9 mEq/L
   17 mg/dL
   111 mEq/L
   141 mEq/L
   33.8 %
   8.0 K/uL
        [image002.jpg]
                             [**2178-7-30**]  03:25 AM
                             [**2178-7-30**]  07:26 AM
                             [**2178-7-30**]  12:16 PM
                             [**2178-7-30**]  07:03 PM
                             [**2178-7-30**]  11:33 PM
                             [**2178-7-31**]  05:00 AM
                             [**2178-7-31**]  06:30 PM
                             [**2178-7-31**]  10:48 PM
                             [**2178-8-1**]  04:00 AM
                             [**2178-8-1**]  06:45 AM
   WBC
   6.3
   6.7
   8.0
   Hct
   27.3
   40.5
   42.8
   41.8
   40.3
   41.4
   34.1
   32.1
   34.2
   33.8
   Plt
   62
   97
   127
   Cr
   0.7
   0.6
   0.6
   Glucose
   192
   157
   197
   Other labs: PT / PTT / INR:15.6/32.1/1.4, Ca++:7.0 mg/dL, Mg++:1.6
   mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   77 y/o M with locally advanced, unresectable pancreatic cancer s/p
   cyberknife and current rx with gemcitabine p/w with brisk UGIB from
   tumor invasion into duodenal bulb, s/p transfusion of 8U PRBC
   .
   # UGIB
 EGD notable for direct tumor invasion and ulceration of
   duodenal bulb; bleeding has resolved for now, HD stable
   - not checking labs as part of CMO -- monitor for s/sx bleeding,
   - transfuse only if symptomatic
   - adequate acess ( [**3-16**] g)
   - continue po PPI
   .
   # Consult Pain and Palliative Care to arrange hospice care and discuss
   end of life care with pt and family. They won
t be able to see him
   until tomorrow.
   .
   #thrombocytopenia - plt  @121 [**8-1**], no clinical s/sx of bleeding at this
   time; most likely dilution effect from transfusion; low clinical
   suspicion for a systemic cause such as sepsis or DIC, or drug related
   as has not received offending meds (i.e. ABX, heparin) since admission
   when plt counts were normal
   .
   # partial gastric outlet obstruction [**2-28**] disease extension - pt
   asymptomatic at present, appetite good
   - d/c NGT
   -antiemetics PRN
   - regular diet
   .
   # DM - gluc 125-200.
   -SSI
   .
   # HTN: hold ACE
 only giving meds for comfort.
   .
   # Pancreatic CA: source of bleeding, but not a surgical candidate;
   LFT's WNL; further chemotherapy likely to magnify bleeding risk; will
   attempt to coordinate discussion with patient and onc coverage.  At the
   request of Heme/Onc, RadOnc was consulted. Decision was that made that
   pt would not benefit from continuation of chemo or radiation.
   .
   #F/E/N
   - advance to regular diet
   -euvolemic, IVF @ KVO
   .
   # Proph: pneumoboots, PPI
   .
   # Code status: DNR/DNI.
   # Comm: Wife [**Name (NI) 455**] (HCP) [**Telephone/Fax (1) 862**].  consent in chart
   # Dispo: home after consult with palliative care, will transfer if bed
   becomes available.
   .
   # Access: 18x2
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2178-7-31**] 09:46 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:D/C Home

2178-08-03 12:21:00 Physician Attending Progress Note
Chief Complaint: GIB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Melena overnight
   24 Hour Events:
 CALLED OUT
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation, melena
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2178-8-3**] 12:21 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.3
C (99.1
   HR: 74 (60 - 81) bpm
   BP: 127/56(75) {110/40(57) - 140/86(94)} mmHg
   RR: 17 (15 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                    480 mL
                                                                    432 mL
   PO:
                                                                    240 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    240 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                  1,095 mL
                                                                    810 mL
   Urine:
                                                                  1,095 mL
                                                                    810 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -615 mL
                                                                   -378 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ////
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.9 g/dL
   127 K/uL
   197 mg/dL
   0.6 mg/dL
   23 mEq/L
   3.9 mEq/L
   17 mg/dL
   111 mEq/L
   141 mEq/L
   33.8 %
   8.0 K/uL
        [image002.jpg]
                             [**2178-7-30**]  03:25 AM
                             [**2178-7-30**]  07:26 AM
                             [**2178-7-30**]  12:16 PM
                             [**2178-7-30**]  07:03 PM
                             [**2178-7-30**]  11:33 PM
                             [**2178-7-31**]  05:00 AM
                             [**2178-7-31**]  06:30 PM
                             [**2178-7-31**]  10:48 PM
                             [**2178-8-1**]  04:00 AM
                             [**2178-8-1**]  06:45 AM
   WBC
   6.3
   6.7
   8.0
   Hct
   27.3
   40.5
   42.8
   41.8
   40.3
   41.4
   34.1
   32.1
   34.2
   33.8
   Plt
   62
   97
   127
   Cr
   0.7
   0.6
   0.6
   Glucose
   192
   157
   197
   Other labs: PT / PTT / INR:15.6/32.1/1.4, Ca++:7.0 mg/dL, Mg++:1.6
   mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 DIABETES MELLITUS (DM), TYPE II
 CANCER (MALIGNANT NEOPLASM), PANCREAS
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
   Plan for palliative care - leading to home with hospice.  He is
   continuing to bleed but has remained hemodynamically stable. We have no
   therapies to offer - EGD cannot help, no surgery, and angio has nothing
   more to offer. He is aware of his prognosis and wishes  to spend his
   remaining time at home.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2178-7-31**] 09:46 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR / DNI
   Disposition :D/C Home
   Total time spent: 35 minutes
   Patient is critically ill